US06995162B2
Step E—Preparation of 3,3-dimethyl-1-(1-methyl-piperidin-4-yl)-6-nitro-2,3-dihydro-1H-indole
3,3-Dimethyl-6-nitroindoline (0.8 g) was dissolved in CH2Cl2 (50 mL), N-methyl-4-piperidone (1 g) was added to the mixture, followed by 2.5 g NaBH(OAc)3 and glacial AcOH (1 mL). The mixture was stirred at RT overnight. Saturated NaHCO3 solution (50 ml) was added to the reaction mixture and stirred for 1 h. The resulting mixture was separated by separation funnel, the organic layer was extracted once with saturated NaHCO3 solution and once with brine, the resulting organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel with 9:1 EtOAc:MeOH to afford the title compound as an orange oil. MS: 290 (M+1). Calc'd. for C16H23N3O2—289.37.

reactant | 3,3-Dimethyl-6-nitroindoline | 0.8 g | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
reactant | N-methyl-4-piperidone | 1 g | CN1CCC(CC1)=O | C6H11NO
reactant | NaBH(OAc)3 | 2.5 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 3,3-dimethyl-1-(1-methyl-piperidin-4-yl)-6-nitro-2,3-dihydro-1H-indole | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])C1CCN(CC1)C)C | C16H23N3O2
